US05942521
In accordance with EXAMPLE 2, using 7-nitro-3-hexyloxy-4-hydroxy-1-methyl-2(1H)-quinolinone, hexyl iodide was used instead of methyl iodide, 7-nitro-4-butoxy-3-hexyloxy-1-methyl-2(1H)-quinolinone was provided. Then in accordance with EXAMPLE 3, the title compound (5 1) was obtained by reduction reaction of nitro group. (yield=57%)

reactant | 7-nitro-3-hexyloxy-4-hydroxy-1-methyl-2(1H)-quinolinone | [N+](=O)([O-])C1=CC=C2C(=C(C(N(C2=C1)C)=O)OCCCCCC)O | C16H20N2O5
reactant | hexyl iodide | C(CCCCC)I | C6H13I
product | 7-nitro-4-butoxy-3-hexyloxy-1-methyl-2(1H)-quinolinone | [N+](=O)([O-])C1=CC=C2C(=C(C(N(C2=C1)C)=O)OCCCCCC)OCCCC | C20H28N2O5
